US04737432
For example, the compound example (1) which is n-dibutyltin borate may be obtained by reacting tin chloride with dibutylmercury in ether as the solvent to obtain dibutyltin dichloride and reacting about 1 mol part of the dibutyltin dichloride after separation by filtration with about 1 mol part of boric acid to obtain a white precipitate.

reactant | tin chloride | [Sn](Cl)(Cl)(Cl)Cl
reactant | dibutylmercury | C(CCC)[Hg]CCCC
solvent | ether | CCOCC | C4H10O
product | dibutyltin dichloride | C(CCC)[Sn](CCCC)(Cl)Cl | InChI=1S/2C4H9.2ClH.Sn/c2*1-3-4-2;;;/h2*1,3-4H2,2H3;2*1H;/q;;;;+2/p-2
